US08168658B2
Step A: tert-butyl {2-[(4-formylbenzoyl)amino]phenyl}carbamate.
4-Formylbenzoic acid (1.50 g, 10.0 mmol), tert-butyl (2-aminophenyl)carbamate (2.08 g, 10.0 mmol), EDC (1.92 g, 10.0 nmol) and HOBt (1.35 g, 10.0 mmol) were dissolved in DMF and the solution was heated at 70° C. for 4 h. The solution was diluted with 200 mL of EtOAc and the organic solution was washed twice with 150 mL of water, then sequentially with 150 mL each of 1 N HCl, NaHCO3 (sat'd), and brine. The solution was dried over MgSO4, concentrated, then purified by flash chromatography (12-100% ethyl acetate in hexanes) to give the desired product, MS cal'd 341 (MH+), exp 341 (MH+).

reactant | 4-Formylbenzoic acid | 10.0 mmol, 1.50 g | C(=O)C1=CC=C(C(=O)O)C=C1 | C8H6O3
reactant | tert-butyl (2-aminophenyl)carbamate | 10.0 mmol, 2.08 g | NC1=C(C=CC=C1)NC(OC(C)(C)C)=O | C11H16N2O2
reactant | EDC | 10.0 nmol, 1.92 g
reactant | HOBt | 10.0 mmol, 1.35 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
solvent | DMF | CN(C)C=O | C3H7NO
solvent | EtOAc | 200 mL | CCOC(=O)C | C4H8O2
product | tert-butyl {2-[(4-formylbenzoyl)amino]phenyl}carbamate | C(=O)C1=CC=C(C(=O)NC2=C(C=CC=C2)NC(OC(C)(C)C)=O)C=C1 | C19H20N2O4
